US06310107B1
1-Acetyl-7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline
To a solution of 7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline (250 mg) in THF (17 ml) was added triethylamine (0.33 ml) followed by addition of acetyl chloride (0.09 ml) at 0° C. After stirring in an ice bath for one hr, the reaction mixture was further stirred at room temperature for one hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:20 to 1:6) and the resulting precipitated crystals were washed with diisopropyl ether to obtain the titled compound (210 mg).

reactant | 7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline | 250 mg | C1(=CC=C(C=C1)COC1=CC=C2CC(CNC2=C1)CCN(C)C)C1=CC=CC=C1 | C26H30N2O
reactant | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.09 ml | C(C)(=O)Cl | C2H3ClO
solvent | THF | 17 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-Acetyl-7-(4-biphenylyl)methoxy-3-[2-(N,N-dimethylamino)ethyl]-1,2,3,4-tetrahydroquinoline | 210 mg | C(C)(=O)N1CC(CC2=CC=C(C=C12)OCC1=CC=C(C=C1)C1=CC=CC=C1)CCN(C)C | C28H32N2O2
